US04029801
4-Amino-1-(4-phenyl-4-oxobutyl)piperidine
4-Benzamido-1-(4-phenyl-4-oxobutyl)piperidine (0.5 g.) was suspended in 6 N HCl (10 ml.) and boiled for 8 hr. The solution was cooled, filtered (to remove benzoic acid) and the filtrate basified with potassium carbonate. The oil which separated was extracted into chloroform which on evaporation gave the title compound as the free base (0.30 g.). This was dissolved in ethanol, ethanol/HCl added until acid and the title compound filtered off (0.376 g.) as the dihydrochloride m.p. 269.7°.

reactant | 4-Benzamido-1-(4-phenyl-4-oxobutyl)piperidine | 0.5 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C22H26N2O2
solvent | HCl | 6 N, 10 ml | Cl | ClH
product | 4-Amino-1-(4-phenyl-4-oxobutyl)piperidine | NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C15H22N2O
